US06531478B2
To a solution of 1-(4-tolyl)-3-(4′-(4-nitrophenyl)sulfonylamino phenyl)-5-aminopyrazole (0.8 g, 1.8 mmol) in EtOAc (30 mL) at room temperature was added 10% Pd-C (0.2 g). The mixture was treated with hydrogen gas at 30 psi for 4 h on a Parr shaker. The mixture was filtered through Celite and the solvent evaporated to yield 1-(4-tolyl)-3-(4′-(4-aminophenyl)sulfonylamino phenyl)-5-aminopyrazole as a solid, which was used without further purification.

reactant | 1-(4-tolyl)-3-(4′-(4-nitrophenyl)sulfonylamino phenyl)-5-aminopyrazole | 1.8 mmol, 0.8 g | C1(=CC=C(C=C1)N1N=C(C=C1N)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C22H19N5O4S
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | Pd-C | 0.2 g | [Pd] | Pd
product | 1-(4-tolyl)-3-(4′-(4-aminophenyl)sulfonylamino phenyl)-5-aminopyrazole | C1(=CC=C(C=C1)N1N=C(C=C1N)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)N)C | C22H21N5O2S
